US06160128
This example describes chemical synthesis of high specific activity [3H] acetylcholine iodide.
N,N-Dimethylaminoethanol (4 μL, 0.04 mmole) was dissolved in dry acetonitrile (0.25 mL) and was placed in a reaction vessel connected to the vacuum line. N-tritioacetoxyphthalimide (0.04 mmole, specific activity 13 Ci/mmole) in dry acetonitrile (0.8 mL) was then added through the side-arm of the reaction vessel. The mixture was heated at 75° C. for 2 hours under N2, then brought to room temperature and methyl iodide (20 μL) was injected. The mixture was stirred for 1 hour. The solvent and excess of methyl iodide was evaporated under vacuum. Deuteriated water (0.5 mL) was added and removed. D2O (1 mL) was then added to the residue and filtered and the product was analyzed by 1H and 3H NMR spectroscopy.

reactant | N,N-Dimethylaminoethanol | 0.04 mmole, 4 μL | CN(C)CCO | C4H11NO
reactant | N-tritioacetoxyphthalimide | 0.04 mmole | [3H]CC(=O)ON1C(C=2C(C1=O)=CC=CC2)=O | C10H7NO4
reactant | methyl iodide | 20 μL | CI | CH3I
solvent | acetonitrile | 0.25 mL | C(C)#N | C2H3N
solvent | acetonitrile | 0.8 mL | C(C)#N | C2H3N
product | acetylcholine iodide | [I-].C(C)(=O)OCC[N+](C)(C)C | InChI=1S/C7H16NO2.HI/c1-7(9)10-6-5-8(2,3)4;/h5-6H2,1-4H3;1H/q+1;/p-1
